US04180522
In the manner given in Example 24, 4-(3',4'-dichloroanilino)-N,N-dimethylbutyramide is reduced with borane in tetrahydrofuarn to give N-(3',4'-dichlorophenyl)-N',N'-dimethylbutane-1,4-diamine as an oil.

reactant | 4-(3',4'-dichloroanilino)-N,N-dimethylbutyramide | ClC=1C=C(NCCCC(=O)N(C)C)C=CC1Cl | C12H16Cl2N2O
reactant | borane | B | BH3
product | N-(3',4'-dichlorophenyl)-N',N'-dimethylbutane-1,4-diamine | ClC=1C=C(C=CC1Cl)NCCCCN(C)C | C12H18Cl2N2
